US05156670
5-[Cyano(dihyrdo-2(3H)-furanylidene)methyl]-2-(difluoromethyl)-4-methyl-6-(trifluoromethyl) -3-pyridinecarboxylic acid, methyl ester.
To a solution of 7.00 g (22.7 mmol) 5-(cyanomethyl)-2-(difluoromethyl)-4-methyl-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester, prepared as in Example E, in 450 mL dichloromethane was added 6.41 g (45.4 mmol) 4-chlorobutyryl chloride, 0.30 g benzyltriethylammonium chloride, and 135 mL 50% sodium hydroxide. The mixture was stirred for 30 minutes, poured over ice, and extracted with diethyl ether. The organic layer was dried with magnesium sulfate, treated wit decolorizing carbon, filtered through silica gel, and evaporated in vacuo. The residue was recrystallized in ethyl acetate and hexane, yielding 4.59 g of the desired product as a white crystalline solid, a 54% yield. m.p. 160°-161° C.

reactant | 5-(cyanomethyl)-2-(difluoromethyl)-4-methyl-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester | 22.7 mmol, 7.00 g | C(#N)CC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)C | C12H9F5N2O2
reactant | 4-chlorobutyryl chloride | 45.4 mmol, 6.41 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | sodium hydroxide | 135 mL | [OH-].[Na+]
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 0.30 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 5-[Cyano(dihyrdo-2(3H)-furanylidene)methyl]-2-(difluoromethyl)-4-methyl-6-(trifluoromethyl) -3-pyridinecarboxylic acid, methyl ester | 4.59 g, 54% yield | C(#N)C(C=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)C)=C1OCCC1 | C16H13F5N2O3
